US05703098
To a stirred solution of 3-(3'-ethoxy-4'-methoxyphenyl)-3-phthalimido-1-propanol (680 mg, 1.92 mmol), benzyl bromide (0.46 mL, 3.86 mmol), and tetrabutyl ammonium iodide (80 mg, 0.21 mmol) in THF (20 mL) at room temperature, was added NaH (240 mg, 60%, 6.0 mmol). The mixture was stirred at room temperature for 15 h. To the mixture was added a few drops of NH4Cl, then HCl (1N, 25 mL). The organic layer was separated. The aqueous layer was extracted with ethyl acetate (3×25 mL). The combined organic layers were washed with brine (25 mL), and dried over magnesium sulfate. Removal of solvent and chromatography (silica gel 100 grams, 1:5 EtOAc:hexane) gave 1-benzyloxy-3-(3'-ethoxy-4'-methoxyphenyl)-3-phthalimidopropane as an oil, (510 mg, 60% yield): 1H NMR (CDCl3)δ1.46 (t, J=6.9 Hz, 3H, CH3), 2.51-2.59 (m, 1H, CHH), 2.86-2.96 (m, 1H, CHH), 3.51 (t, J=5.5 Hz, CH2), 3.85 (s, 3H, CH3), 4.10 (q, J=7 Hz, CH2), 4.43 (s, 2H, PhCH2), 5.54 (dd, J=6.5, 9.5 Hz, 1H, NCH), 6.80 (d, J=8 Hz, 1H, Ar), 7.09-7.27 (m, 7H, Ar), 7.65-7.79 (m, 4H, Ar); 13C NMR (CDCl3)δ14.73, 31.37, 52.12, 55.88, 64.29, 67.31, 73.10, 111.11, 112.95, 120.59, 123.09, 127.42, 127.62, 128.22, 131.92, 132.09, 133.77, 138.09, 148.12, 148.84, 168.42; Anal Calcd for C27H27 NO5 : C, 72.79; H, 6.11; N, 3.14. Found: C, 72.66; H, 6.32; N, 3.16.

reactant | 3-(3'-ethoxy-4'-methoxyphenyl)-3-phthalimido-1-propanol | 1.92 mmol, 680 mg | C(C)OC=1C=C(C=CC1OC)C(CCO)N1C(C=2C(C1=O)=CC=CC2)=O | C20H21NO5
reactant | benzyl bromide | 3.86 mmol, 0.46 mL | C(C1=CC=CC=C1)Br | C7H7Br
reactant | NaH | 6.0 mmol, 240 mg | [H-].[Na+]
reactant | HCl | 1N, 25 mL | Cl | ClH
catalyst | tetrabutyl ammonium iodide | 0.21 mmol, 80 mg | [I-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | THF | 20 mL | C1CCOC1 | C4H8O
catalyst | NH4Cl | a few drops | [NH4+].[Cl-]
product | 1-benzyloxy-3-(3'-ethoxy-4'-methoxyphenyl)-3-phthalimidopropane | 60% yield | C(C1=CC=CC=C1)OCCC(N1C(C=2C(C1=O)=CC=CC2)=O)C2=CC(=C(C=C2)OC)OCC | C27H27NO5
